US07696240B2
Using general procedure B, 3-formyl-1H-indole-2-carboxylic acid ethyl ester was coupled with 3-bromomethyl-5-fluoro-benzo[b]thiophene (Lit. 18) to give 1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-3-formyl-1H-indole-2-carboxylic acid ethyl ester as white solid. MS: 382.3 ([M+H]+).

reactant | 3-formyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1C=O | C12H11NO3
reactant | 3-bromomethyl-5-fluoro-benzo[b]thiophene | BrCC=1C2=C(SC1)C=CC(=C2)F | C9H6BrFS
product | 1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-3-formyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1C=O)CC=1C2=C(SC1)C=CC(=C2)F | C21H16FNO3S
